US06743802B2
Step 1: 2-(1-hydroxy-1-methylethyl) thiazole.
To a solution of thiazole in ether (1 mL/mmol) at −78° C. was added 2.2M n-butyllithium in hexanes (1.1 eq) and the resulting mixture was stirred for 30 minutes. Acetone (1.2 eq) was added and the mixture was stirred at −78° C. for a further 30 minutes. The mixture was quenched in the cold with saturated aqueous ammonium chloride solution and warmed to room temperature, then partitioned between ether and water. The organic phase was dried and evaporated to yield the crude product as an orange-brown oil which was used as such in the next step.

reactant | thiazole | S1C=NC=C1 | C3H3NS
reactant | n-butyllithium | 2.2M | C(CCC)[Li]
reactant | Acetone | 1.2 eq | CC(=O)C | C3H6O
solvent | ether | CCOCC | C4H10O
product | 2-(1-hydroxy-1-methylethyl) thiazole | OC(C)(C)C=1SC=CN1 | C6H9NOS
